US04379783
3-(Dimethyl-n-hexylsilyl)-1-methoxybenzene
To a 0° C. slurry of 3.98 g. (0.166 mole) of sodium hydride in 50 ml. dimethylformamide was slowly added a solution of 26.1 g. (0.111 mole) of 3-(dimethyl-n-hexylsilyl)phenol in 50 ml. dimethylformamide. Following addition, the reaction mixture was stirred 1 hr at 25° C. and cooled to 0° C. To the cooled reaction mixture, 20.9 g. (0.166 mole) of dimethyl sulfate was slowly added. Following addition, the reaction was stirred for 2 hr at 25° C. and then added to 200 ml. water. The quenched reaction mixture was extracted with three 100 ml. portions of hexane. The hexane extract was dried over anhydrous magnesium sulfate and evaporated to an oil. This oil was purified by column chromatography on 500 g. of silica gel eluted with 1% diethyl ether hexane to yield 14.8 g. (53%) of the title compound as an oil.

reactant | sodium hydride | 0.166 mole | [H-].[Na+]
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | 3-(dimethyl-n-hexylsilyl)phenol | 0.111 mole | C[Si](C=1C=C(C=CC1)O)(CCCCCC)C | C14H24OSi
reactant | dimethyl sulfate | 0.166 mole | S(=O)(=O)(OC)OC | C2H6O4S
solvent | water | O | H2O
product | 3-(Dimethyl-n-hexylsilyl)-1-methoxybenzene | 53% | C[Si](C=1C=C(C=CC1)OC)(CCCCCC)C | C15H26OSi
